US07842696B2
Trityl chloride (885 mg, 3.2 mmol) was added to a stirred cold (0-5° C.) solution of 4-iodo pyrazole (513 mg, 2.6 mmol) and triethylamine (401 mg, 0.55 mL, 0.4 mmol) in DCM (10 mL). Stirring was continued at room temperature overnight. Cold water was then added and the product was extracted with DCM and the organic layer was washed with sat. sodium bicarbonate solution followed by brine. The organic phase was dried over Na2SO4 and concentrated under reduced pressure to get the residue. The obtained residue was purified by column chromatography (using neutral alumina and 2% EtOAc in Hexane as eluent) to afford 300 mg (26% yield) of 4-iodo-1-trityl-1H-pyrazole.

reactant | Trityl chloride | 3.2 mmol, 885 mg | C(C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)Cl | C19H15Cl
reactant | 4-iodo pyrazole | 2.6 mmol, 513 mg | IC=1C=NNC1 | C3H3IN2
reactant | triethylamine | 0.4 mmol, 0.55 mL, 401 mg | C(C)N(CC)CC | C6H15N
reactant | water | O | H2O
solvent | DCM | 10 mL | C(Cl)Cl | CH2Cl2
product | 4-iodo-1-trityl-1H-pyrazole | 300 mg, 26% yield | IC=1C=NN(C1)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C22H17IN2
